US05811459
Methyl 4-[3-(2-hydroxyphenyl)propyl]benzoate (1.35 g, 5 mmol) was dissolved in 0.2 ml of THF. The solution was treated with 3-hydroxymethylpyridine (0.6 g, 5.5 mmol) and triphenylphosphine (1.44 g, 5.5 mmol). To this mixture was added slowly diethylazodicarboxylate (0.96 g, 5.5 mmol). The reaction mixture was stired for 72 hours and the solvent was evaporated. The amide residue was purified by chromatography (methanol, dichloromethane) to give methyl 4-[3-(2-(3-pyridylmethyloxy)phenyl)propyl]benzoate as a pink oil (1.03 g, 57%) MS (CI+):362 [M+H]+.

reactant | Methyl 4-[3-(2-hydroxyphenyl)propyl]benzoate | 5 mmol, 1.35 g | OC1=C(C=CC=C1)CCCC1=CC=C(C(=O)OC)C=C1 | C17H18O3
reactant | 3-hydroxymethylpyridine | 5.5 mmol, 0.6 g | OCC=1C=NC=CC1 | C6H7NO
reactant | triphenylphosphine | 5.5 mmol, 1.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 5.5 mmol, 0.96 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 0.2 ml | C1CCOC1 | C4H8O
product | methyl 4-[3-(2-(3-pyridylmethyloxy)phenyl)propyl]benzoate | 1.03 g, 57% | N1=CC(=CC=C1)COC1=C(C=CC=C1)CCCC1=CC=C(C(=O)OC)C=C1 | C23H23NO3
